US05852049
35A 3-(N-tert-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-ol
To a solution of sodium (4.8 g; 210 mmol) in dry methanol (130 ml), there are added, at room temperature, 5-hydroxyindole (4 g; 30.04 mmol) and N-(tert-butoxycarbonyl)piperidone (8.9 g; 45.1 mmol).

reactant | sodium | 210 mmol, 4.8 g | [Na] | Na
reactant | 5-hydroxyindole | 30.04 mmol, 4 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | N-(tert-butoxycarbonyl)piperidone | 45.1 mmol, 8.9 g | C(C)(C)(C)OC(=O)N1C(CCCC1)=O | C10H17NO3
solvent | methanol | 130 ml | CO | CH4O
product | 3-(N-tert-Butoxycarbonyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indol-5-ol | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)O | C18H22N2O3
